US04062978
A mixture of 3-bromomethylbenzophenone (2.75 g.), acetylacetone (1 g.), potassium carbonate (1.4 g.) and ethanol (50 ml) was refluxed for 2 hours. The solvent was then evaporated and the residue extracted with ether. Distillation of the concentrated extracts gave 4-(m-benzoylphenyl)-2-butanone (1 g.), b.p. 220° C (4 mm). [An alternative preparation of this compound appears in German Offenlegungsschrift No. 2,243,444].

reactant | 3-bromomethylbenzophenone | 2.75 g | BrCC=1C=C(C(=O)C2=CC=CC=C2)C=CC1 | C14H11BrO
reactant | acetylacetone | 1 g | C(C)(=O)CC(C)=O | C5H8O2
reactant | potassium carbonate | 1.4 g | C([O-])([O-])=O.[K+].[K+]
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 4-(m-benzoylphenyl)-2-butanone | 1 g | C(C1=CC=CC=C1)(=O)C=1C=C(C=CC1)CCC(C)=O | C17H16O2
